US05026401
3rd step: Preparation of 2,4-diaminophenyl β-hydroxypropyl ether dihydrochloride
0.109 mol (28.4 g) of 2-acetylamino-4-aminophenyl β-hydroxypropyl ether monohydrochloride is dissolved, under reflux, in a mixture of 80 ml of ethanol saturated with hydrogen chloride and 25 ml of 36% strength hydrochloric acid. The reaction mixture is heated under reflux for 11/2 hours. On cooling, the expected product precipitates in the form of the dihydrochloride. The product is filtered off, washed with a small amount of absolute alcohol and dried in vacuo at 50° C. It melts with decomposition at between 215° and 220° C.

reactant | 2-acetylamino-4-aminophenyl β-hydroxypropyl ether monohydrochloride | 0.109 mol, 28.4 g | Cl.OC(COC1=C(C=C(C=C1)N)NC(C)=O)C
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2,4-diaminophenyl β-hydroxypropyl ether dihydrochloride | Cl.Cl.OC(COC1=C(C=C(C=C1)N)N)C | InChI=1S/C9H14N2O2.2ClH/c1-6(12)5-13-9-3-2-7(10)4-8(9)11;;/h2-4,6,12H,5,10-11H2,1H3;2*1H
